US07799933B2
(4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid tert-butyl ester (0.25 g, 0.46 mmol) was dissolved in 4M HCl in dioxane (4.00 mL) and stirred at room temperature for 18 hours. The volatiles were evaporated and the residue taken up in ethyl acetate/heptane 1:1 and sonicated. The solid was filtered washing with ethyl acetate/heptane 1:1 and dried under vacuum. (4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid was obtained as an off-white solid, 0.14 g (63%), MS (ISP): m/e=497.1 (M−H).

reactant | (4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid tert-butyl ester | 0.46 mmol, 0.25 g | C(C)(C)(C)OC(CC1=CC=C(C=C1)NC(=O)C1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C28H27ClN2O6S
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 4.00 mL | O1CCOCC1 | C4H8O2
product | (4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)C(=O)NC1=CC=C(C=C1)CC(=O)O)OC | C24H19ClN2O6S
